US07067506B2
Step 5: 3-(2-tert-Butoxycarbonylamino-4-methyl-phenoxymethyl)-3,4-dihydro -2H-quinoline-1-carboxylic acid benzyl ester.
To a stirred solution of [5-Methyl-2-(1,2,3,4-tetrahydro-quinolin-3-ylmethoxy)-phenyl]-carbamic acid tert-butyl ester. To a stirred solution of 2-N-Boc-amino-4-methylphenol (129 mg, 0.35 mmol) in CH2Cl2 (1.5 mL) at 0° C. under nitrogen was added DIEA (61 μL, 0.35 mmol) followed by benzyl chloroformate (50 μL, 0.35 mmol) and DMAP (4 mg, 0.035 mmol). After 24 hours, the reaction was diluted to 30 mL with CH2Cl2 and washed (2×30 mL) with 2N HCl and (2×30 mL) with saturated NaHCO3. The organics were dried (MgSO4), filtered and concentrated to a brown oil, which appeared to be a mixture of product and starting material.

reactant | [5-Methyl-2-(1,2,3,4-tetrahydro-quinolin-3-ylmethoxy)-phenyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=CC(=C1)C)OCC1CNC2=CC=CC=C2C1)=O | C22H28N2O3
reactant | DIEA | 0.35 mmol, 61 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | benzyl chloroformate | 0.35 mmol, 50 μL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | CH2Cl2 | 1.5 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.035 mmol, 4 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 3-(2-tert-Butoxycarbonylamino-4-methyl-phenoxymethyl)-3,4-dihydro -2H-quinoline-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CC(CC2=CC=CC=C12)COC1=C(C=C(C=C1)C)NC(=O)OC(C)(C)C | C30H34N2O5
